US04232032
A mixture of 6-cyano-2,4-bis(trichloromethyl)benzo[1,3]dioxin (1.98 g.), ammonium chloride (0.33 g.) and sodium azide in anhydrous dimethylformamide was warmed on the steam bath for 16 hours. The reaction mixture was cooled, poured onto ice and kept for 16 hours. The amorphous white product was filtered off, triturated with acetic acid, and crystallised from chloroform to give 4-dichloromethylene-6-(tetrazol-5-yl)-2-trichloromethylbenzo[1,3]dioxin, m.p. 222° C.

reactant | 6-cyano-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 1.98 g | C(#N)C=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C11H5Cl6NO2
reactant | ammonium chloride | 0.33 g | [Cl-].[NH4+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-dichloromethylene-6-(tetrazol-5-yl)-2-trichloromethylbenzo[1,3]dioxin | ClC(=C1OC(OC2=C1C=C(C=C2)C2=NN=NN2)C(Cl)(Cl)Cl)Cl | C11H5Cl5N4O2
